US07662811B2
To a solution of (S)-2,2,2-trifluoro-1-(7-hydroxy-1,2,7,8,9,10-hexahydrobenzo[f]isoquinolin-3(4H)-yl)ethanone (299 mg, 1 mmol) in 3 mL of toluene at −10° C. was added DPPA (0.26 mL, 1.2 mmol). To this stirred solution was then added DBU (0.18 mL, 1.2 mmol) dropwise while keeping the temperature below 0° C. After stirring at room temperature for 3 h, 0.5 mL of 10% HCl was added and the resulting solution was evaporated to dryness and directly submitted to flash chomatography (SiO2, hexane/EtOAc=100:10 to 100:15 to 100:18) to afford (R)-1-(7-azido-1,2,7,8,9,10-hexahydrobenzo[f]-isoquinolin-3(4H)-yl)-2,2,2-trifluoroethanone as a colorless oil which was directly used in the next step.

reactant | (S)-2,2,2-trifluoro-1-(7-hydroxy-1,2,7,8,9,10-hexahydrobenzo[f]isoquinolin-3(4H)-yl)ethanone | 1 mmol, 299 mg | FC(C(=O)N1CC=2C=CC3=C(C2CC1)CCC[C@@H]3O)(F)F | C15H16F3NO2
reactant | DPPA | 1.2 mmol, 0.26 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 1.2 mmol, 0.18 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 0.5 mL | Cl | ClH
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(7-azido-1,2,7,8,9,10-hexahydrobenzo[f]-isoquinolin-3(4H)-yl)-2,2,2-trifluoroethanone | N(=[N+]=[N-])[C@@H]1CCCC=2C=3CCN(CC3C=CC21)C(C(F)(F)F)=O | C15H15F3N4O
